US05700749
A 1-liter continuous polymerization reactor was charged continuously with 500 ml/hr of toluene, 0.5 millimole/hr of tributyl aluminum, 0.5 milligram-atom/hr, calculated as aluminum atom, of the aluminoxane synthesized in Example 28, and 5×10-3 milligram-atom/hr, calculated as zirconium atom, of the catalyst component (A) synthesized in Example 40. Simultaneously, 150 liters/hr of ethylene, 100 liters/hr of propylene, and 1.2 g/hr of ethylidene-2-norbornene (ENB) were continuously fed into the reactor. The polymerization was carried out at a temperature of 20° C. under atmospheric pressure with a residence time of 1 hour and a polymer concentration of 14 g/liter. The resulting polymerization product was worked up as in Example 28 to give an ethylene/propylene/ENB copolymer having an MFR of 2.04 g/10 min., an ethylene content, determined by 13C-NMR, of 85.8 mole %, an Mw/Mn of 2.49 and an iodine value of 10.

reactant | tributyl aluminum | C(CCC)[Al](CCCC)CCCC
reactant | ethylene | C=C | C2H4
reactant | propylene | C=CC | C3H6
reactant | ethylidene-2-norbornene | C(C)=C1C2C=CC(C1)C2 | C9H12
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethylene/propylene ENB | C=C.C=CC.C(C)=C1C2C=CC(C1)C2 | InChI=1S/C9H12.C3H6.C2H4/c1-2-8-5-7-3-4-9(8)6-7;1-3-2;1-2/h2-4,7,9H,5-6H2,1H3;3H,1H2,2H3;1-2H2
